* Schematics Netlist *



R_R4         0 Vout  1k  
R_R3         $N_0001 Vout  200  
R_R1         Vin $N_0002  20k  
R_R2         0 $N_0002  100k  
C_C1         0 $N_0002  52p  
C_C2         0 Vout  20p  
V_V1         Vin 0 DC 0V AC 1V 
E_E1         $N_0001 0 $N_0002 0 132
