* Schematics Netlist *



R_R1         0 $N_0001  1k  
V_VGS         $N_0002 0 0V
M_M1         $N_0003 $N_0002 $N_0001 0 MbreakN-X           
R_R2         $N_0003 $N_0004  5k  
V_VDS         $N_0004 0 1V
