* Schematics Netlist *



V_V2         0 Vss 7.5V
V_V1         Vdd 0 7.5V
V_V4         V+ 0 DC 0V AC 1uV 
M_M15         Vout $N_0001 Vdd Vdd MbreakP           
M_M16         $N_0001 $N_0001 Vdd Vdd MbreakP           
M_M11         $N_0002 $N_0002 Vss Vss MbreakN-X1           
M_M8         $N_0003 $N_0002 Vss Vss MbreakN-X1           
M_M17         $N_0004 $N_0004 Vdd Vdd Mbreakp           
R_R1         $N_0002 $N_0004  891k  
M_M10         $N_0001 0 $N_0003 $N_0003 MbreakN-X1   
+ W=1.29u         
M_M9         Vout V+ $N_0003 $N_0003 MbreakN-X1   
+ W=1.29u         
