* Schematics Netlist *



V_V1         VDD 0 5V
M_M2         $N_0002 $N_0001 0 0 MbreakN-X1           
I_IREF         VDD $N_0001 DC 1mA  
M_M4         $N_0002 $N_0002 VDD VDD MbreakP-X           
M_M5         0 $N_0002 VDD VDD MbreakP-X1           
M_M3         VDD $N_0001 0 0 MbreakN-X2           
M_M1         $N_0001 $N_0001 0 0 MbreakN-X           
